US05114461
A solution of 4-chloro-2-nitrobenzoyl chloride (1 g) in dry dichloromethane (5 ml) was added at 0°-10° C. to a stirred solution of triethylamine (0.62 ml) and 5-(2-ethylthiopropyl)-6-carbethoxycyclohexane-1,3-dione (1.3 g) in dry dichloromethane (20 ml) and the mixture stirred at ambient temperature for 2 hours. Triethylamine (1.9 g) and acetone cyanohydrin (0.1 ml) were added successively to the solution and the mixture stirred at ambient temperature for a further 18 hours. The mixture was washed successively with 2N hydrochloric acid (10 ml) and water (2×10 ml) dried over magnesium sulphate and evaporated under reduced pressure to give 2-(4-chloro-2-nitrobenzoyl)-5-(2-ethylthiopropyl)-6-carbethoxycyclohexane-1,3-dione (0.6 g), mp 102°-104° C., as an orange crystalline solid.

reactant | 4-chloro-2-nitrobenzoyl chloride | 1 g | ClC1=CC(=C(C(=O)Cl)C=C1)[N+](=O)[O-] | C7H3Cl2NO3
reactant | triethylamine | 0.62 ml | C(C)N(CC)CC | C6H15N
reactant | 5-(2-ethylthiopropyl)-6-carbethoxycyclohexane-1,3-dione | 1.3 g | C(C)SC(CC1CC(CC(C1C(=O)OCC)=O)=O)C | C14H22O4S
reactant | Triethylamine | 1.9 g | C(C)N(CC)CC | C6H15N
reactant | acetone cyanohydrin | 0.1 ml | CC(C#N)(O)C | C4H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-(4-chloro-2-nitrobenzoyl)-5-(2-ethylthiopropyl)-6-carbethoxycyclohexane-1,3-dione | 0.6 g | ClC1=CC(=C(C(=O)C2C(C(C(CC2=O)CC(C)SCC)C(=O)OCC)=O)C=C1)[N+](=O)[O-] | C21H24ClNO7S
